US09376418B2
A mixture of ethyl 3-(5-bromopyridin-3-yl)propanoate (1.64 g, 6.35 mmol), bis(pinacolato)diboron (1.78 g, 6.99 mmol), Pd2(dba)3 (291 mg, 0.318 mmol), tricyclohexylphosphine (178 mg, 0.635 mmol) and potassium acetate (998 mg, 10.2 mmol) in degassed dioxane (64 mL) was evacuated/purged 5 times with argon. The reaction was heated to 95° C. for 14 hours. The reaction was then allowed to cool to room temperature, diluted with water, extracted with ethyl acetate, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel chromatography to afford ethyl 3-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl]propanoate. 1H NMR (500 MHz, CDCl3) δ 8.85 (s, 1H), 8.62 (s, 1H), 8.36 (s, 1H), 4.12 (q, J=7.1 Hz, 2H), 3.07 (t, J=7.3 Hz, 2H), 2.70 (t, J=7.3 Hz, 2H), 1.35 (s, 12H), 1.26-1.20 (m, 3H).

reactant | ethyl 3-(5-bromopyridin-3-yl)propanoate | 6.35 mmol, 1.64 g | BrC=1C=C(C=NC1)CCC(=O)OCC | C10H12BrNO2
reactant | bis(pinacolato)diboron | 6.99 mmol, 1.78 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | tricyclohexylphosphine | 0.635 mmol, 178 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium acetate | 10.2 mmol, 998 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 64 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.318 mmol, 291 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | ethyl 3-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl]propanoate | CC1(OB(OC1(C)C)C=1C=C(C=NC1)CCC(=O)OCC)C | C16H24BNO4
